US08012976B2
A mixture of methyl 4-oxo-3-phenyl-2-(pyridin-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (30 mg, 0.08 mmol) and hydrazine monohydrate (1 mL) was stirred at room temperature for 3 h. The resulting mixture was evaporated under reduced pressure to 10 mL and then filtered, 10 mg of 9-phenyl-8-(pyridin-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one was obtained, yield 37%. 1H-NMR (400 MHz, CDCl3) δ (ppm): 4.60 (d, 1H), 4.86-4.88 (m, 1H), 5.21 (s, 1H), 6.96 (dd, 1H), 7.08-7.17 (m, 4H), 7.22-7.28 (m, 3H), 7.46-7.49 (m, 1H), 7.60 (t, 1H), 7.73 (dd, 1H), 8.59 (d, 1H), 9.77 (s, 1H); LC-MS (ESI) m/z: 341 (M+1)+.

reactant | methyl 4-oxo-3-phenyl-2-(pyridin-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.08 mmol, 30 mg | O=C1C(C(NC=2C=CC=C(C12)C(=O)OC)C1=NC=CC=C1)C1=CC=CC=C1 | C22H18N2O3
reactant | hydrazine monohydrate | 1 mL | O.NN
product | 9-phenyl-8-(pyridin-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 10 mg, yield 37% | C1(=CC=CC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=NC=CC=C2 | C21H16N4O
